US08076516B2
Reaction of 4-(3-(aminomethyl)phenethyl)heptan-4-ol with tert-butyl (1H-pyrazol-1-yl)methylenedicarbamate in CH3CN gives tert-butyl (tert-butoxycarbonylamino)(3-(3-hydroxy-3-propylhexyl)benzylamino)methylenecarbamate.

reactant | 4-(3-(aminomethyl)phenethyl)heptan-4-ol | NCC=1C=C(CCC(CCC)(CCC)O)C=CC1 | C16H27NO
reactant | tert-butyl (1H-pyrazol-1-yl)methylenedicarbamate | N1(N=CC=C1)C(NC([O-])=O)NC(OC(C)(C)C)=O
solvent | CH3CN | CC#N | C2H3N
product | tert-butyl (tert-butoxycarbonylamino)(3-(3-hydroxy-3-propylhexyl)benzylamino)methylenecarbamate | C(C)(C)(C)OC(=O)NC(NCC1=CC(=CC=C1)CCC(CCC)(CCC)O)=NC(OC(C)(C)C)=O | C27H45N3O5
